US06660753B2
A mixture of dimethyl 5-allyloxy-isophthalate (3.7 g, 14.9 mmol) in methanol (75 mL) was treated with 1M sodium hydroxide (13.4 mL, 13.4 mmol) and the reaction stirred at room temperature for 16 hours. The mixture was concentrated under vacuum and the resulting residue was dissolved in water. The aqueous layer was washed with ethyl acetate (3×), and then acidified (pH 1) by the addition of aqueous HCl. The aqueous solution was then extracted with ethyl acetate. The organic extract was dried over anhydrous sodium sulfate, filtered and concentrated to afford 2.6 g (74%) of 3-allyloxy-5-(methoxycarbonyl)benzoic acid.

reactant | dimethyl 5-allyloxy-isophthalate | 14.9 mmol, 3.7 g | C(C=C)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C13H14O5
reactant | sodium hydroxide | 13.4 mmol, 1M, 13.4 mL | [OH-].[Na+]
solvent | methanol | 75 mL | CO | CH4O
product | 3-allyloxy-5-(methoxycarbonyl)benzoic acid | 2.6 g, 74% | C(C=C)OC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C12H12O5
